US09388189B2
b) 4-Amino-6-chloro-N-(3-methoxy-4-(oxazol-5-yl)phenyl)pyrimidine-5-carboxamide
4,6-Dichloro-N-(3-methoxy-4-(oxazol-5-yl)phenyl)pyrimidine-5-carboxamide (844 mg, 2.01 mmol) was dissolved in dioxane (10 ml) and cooled in an ice bath. Ammonia solution (1.44 ml, 7N in MeOH) was added dropwise and the mixture was stirred at 0° C. for 20 min and 4 h at room temperature. After dilution with ethyl acetate, this organic phase was successively washed with water and brine, dried over magnesium sulphate, filtered and the solvents evaporated under reduced pressure, to yield a solid as a residue (788 mg, 86% purity, 98% yield) which was used in the next synthetic step without further purification.

reactant | 4,6-Dichloro-N-(3-methoxy-4-(oxazol-5-yl)phenyl)pyrimidine-5-carboxamide | 2.01 mmol, 844 mg | ClC1=NC=NC(=C1C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)Cl | C15H10Cl2N4O3
reactant | Ammonia | 7N, 1.44 ml | N | H3N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-Amino-6-chloro-N-(3-methoxy-4-(oxazol-5-yl)phenyl)pyrimidine-5-carboxamide | 98% yield | NC1=NC=NC(=C1C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)Cl | C15H12ClN5O3
